US07534802B2
Triphenylphosphine (4.8 g, 18 mmol) and carbon tetrabromide (7.4 g, 22 mmol) were added to a solution of (±)-1-(4-pyridyl)ethanol (1.9 g, 15 mmol) in methylene chloride (75 mL) under ice-cooling, and then the mixture was stirred at room temperature for 1 hour. A saturated aqueous sodium hydrogencarbonate solution (100 mL) was added to the reaction mixture, the whole was extracted with chloroform (60 mL), and then the chloroform layer was washed with brine (80 mL). The chloroform layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give (±)-1-(1-bromoethyl)pyridine (2.0 g, 72%). Immediately, triethylamine (3.1 mL, 22 mmol) was added dropwise to a solution of this bromo intermediate (2.0 g, 11 mmol) and 2-mercaptonicotinic acid (1.2 g, 7.8 mmol) in N,N-dimethylformamide (100 mL) at room temperature, and the reaction mixture was stirred for 15 hours. Water (50 mL) was added to the reaction mixture, the whole was washed with ethyl acetate (50 mL), then the aqueous layer was adjusted to pH 7 with 1N hydrochloric acid and extracted with chloroform (50 mL). The chloroform layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to give the title reference compound including N,N-dimethylformamide.

reactant | Triphenylphosphine | 18 mmol, 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 22 mmol, 7.4 g | C(Br)(Br)(Br)Br | CBr4
reactant | (±)-1-(4-pyridyl)ethanol | 15 mmol, 1.9 g | N1=CC=C(C=C1)C(C)O | C7H9NO
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(1-bromoethyl)pyridine | 2.0 g, 72% | BrC(C)N1CC=CC=C1 | C7H10BrN
